US06307047B1
2-(4-Fluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, substituting 2-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone (prepared as an intermediate in Example 375) in place of 2-(3-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone (yield: 0.486 g, 100%). mp 121-128° C. 1H NMR (300 MHz, DMSO d6) δ 0.78 (d, J=7 Hz, 6H), 1.84 (m, 1H), 3.30 (s, 3H), 4.20 (d, J=6 Hz, 2H), 7.37 (m, 2H), 7.66 (m, 2H), 7.92 (m, 2H), 8.07 (m, 2H), 8.19 (s, 1H). MS (DCI/NH3) m/z 417 (M+H)+, 434 (M+NH4)+. Anal. calc. for C21H21FN2O4S.0.50 H2O: C, 59.28; H, 5.21; N, 6.58. Found: C, 59.49; H, 4.97; N, 6.34.

reactant | 2-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
reactant | 2-(3-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone | yield: 0.486 g | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O6S2
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(4-Fluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H21FN2O4S
